US04978663
A solution of N-[1-(1,6-dihydro-6-oxo-3-pyridinyl)-4,4-dimethylcyclohexyl]formamide hydrochloride (7.05 g) in 125 ml of methanol was heated at reflux for 24 hours, and then the solution was cooled and concentrated in vacuo to a volume of 25 ml. The precipitated powder was collected, affording 3.07 g of analytically pure 5-(1-amino-4,4-dimethylcyclohexyl)-2(1H)-pyridinone hydrochloride, m.p. 229°-230° C.

reactant | N-[1-(1,6-dihydro-6-oxo-3-pyridinyl)-4,4-dimethylcyclohexyl]formamide hydrochloride | 7.05 g | Cl.O=C1C=CC(=CN1)C1(CCC(CC1)(C)C)NC=O
solvent | methanol | 125 ml | CO | CH4O
product | 5-(1-amino-4,4-dimethylcyclohexyl)-2(1H)-pyridinone hydrochloride | Cl.NC1(CCC(CC1)(C)C)C=1C=CC(NC1)=O | InChI=1S/C13H20N2O.ClH/c1-12(2)5-7-13(14,8-6-12)10-3-4-11(16)15-9-10;/h3-4,9H,5-8,14H2,1-2H3,(H,15,16);1H
